US07915443B2
N-{[2-(3-hydroxypiperidin-1-yl)-2-oxoethyl](oxido)phenyl--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
In a manner similar to that described in Example 534, (S)-Ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate and 3-hydroxypiperidine were reacted to give the title compound.

reactant | (S)-Ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=CC=C1
reactant | 3-hydroxypiperidine | OC1CNCCC1 | C5H11NO
product | N-{[2-(3-hydroxypiperidin-1-yl)-2-oxoethyl](oxido)phenyl--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | OC1CN(CCC1)C(CS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O)=O | C33H30N4O6S
